US06545017B1
N′-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]-N-methyl-N-phenylurea
Using the method of Examples 118-133, N-methyl-N-phenylcarbamoyl chloride was reacted with 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 353.2073.

reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C11H17N5
product | N′-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]-N-methyl-N-phenylurea | NC1=NC(=C(C2=C1N=C(N2CCNC(N(C2=CC=CC=C2)C)=O)C)C)C | C19H24N6O
